US06417192B1
To a solution of 8-(3,4-dichlorophenyl)-oct-7-yn-1-ol (0.70 g) in methanol (20 ml) was added platinum dioxide (0.05 g) and the mixture reacted under an atmosphere of hydrogen (initial pressure 50 psi). After 1 h. the catalyst was filtered through Hyflo and washed with methanol. The combined methanol layers were evaporated under reduced pressure to give 8-(3,4-dichlorophenyl)octan-1-ol (0.69 g). 1H-NMR (CDCl3) δ 1.1-1.8 (12H, m), 2.55 (2H, t), 3.64 (2H, m), 6.99 (1H, dd) and 7.2-7.4 (2H, m).

reactant | 8-(3,4-dichlorophenyl)-oct-7-yn-1-ol | 0.70 g | ClC=1C=C(C=CC1Cl)C#CCCCCCCO | C14H16Cl2O
solvent | methanol | 20 ml | CO | CH4O
catalyst | platinum dioxide | 0.05 g | [Pt](=O)=O
product | 8-(3,4-dichlorophenyl)octan-1-ol | 0.69 g | ClC=1C=C(C=CC1Cl)CCCCCCCCO | C14H20Cl2O
